* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000082463978604
Fd1_1 0 s1 V1 1.0000041231989303
Gr1_1_1 0 s1 x1_a1 0 -452001085859.8431
Gr2_re_1_1 0 s1 x2_re_a1 0 -402735099862.7446
Gr2_im_1_1 0 s1 x2_im_a1 0 -82035945966.89906
Gr3_re_1_1 0 s1 x3_re_a1 0 144038254058682.5
Gr3_im_1_1 0 s1 x3_im_a1 0 -79823602082493.47
Gr4_re_1_1 0 s1 x4_re_a1 0 1.1814476352484101e+17
Gr4_im_1_1 0 s1 x4_im_a1 0 7.498322734454613e+16
Gr5_re_1_1 0 s1 x5_re_a1 0 1.880266844529273e+17
Gr5_im_1_1 0 s1 x5_im_a1 0 -3182518516473997.0
Gr6_re_1_1 0 s1 x6_re_a1 0 -8.225338175648577e+17
Gr6_im_1_1 0 s1 x6_im_a1 0 -7.598703236758913e+17
Gr7_re_1_1 0 s1 x7_re_a1 0 7.422551674595937e+17
Gr7_im_1_1 0 s1 x7_im_a1 0 9.557170351908458e+17
Gr8_1_1 0 s1 x8_a1 0 -4.9808794276149485e+17
Gr9_re_1_1 0 s1 x9_re_a1 0 -5.455888198978544e+16
Gr9_im_1_1 0 s1 x9_im_a1 0 2.4026520183792656e+17
Gr10_re_1_1 0 s1 x10_re_a1 0 4.3450364404034054e+17
Gr10_im_1_1 0 s1 x10_im_a1 0 8.94927297043699e+16
Gr11_re_1_1 0 s1 x11_re_a1 0 -1.1001264578831324e+18
Gr11_im_1_1 0 s1 x11_im_a1 0 -1.9097476938827862e+17
Gr12_re_1_1 0 s1 x12_re_a1 0 8.86456312101677e+17
Gr12_im_1_1 0 s1 x12_im_a1 0 -1.9225788942794557e+17
Gr13_re_1_1 0 s1 x13_re_a1 0 -1.432669929557609e+17
Gr13_im_1_1 0 s1 x13_im_a1 0 -2.5121048449802038e+17
Gd1_2 0 s1 p2 0 2.4301768997148087e-08
Fd1_2 0 s1 V2 1.2150884498574044e-06
Gr1_1_2 0 s1 x1_a2 0 80097741251.79245
Gr2_re_1_2 0 s1 x2_re_a2 0 -29546772911.03865
Gr2_im_1_2 0 s1 x2_im_a2 0 38835382172.58473
Gr3_re_1_2 0 s1 x3_re_a2 0 30980169884691.9
Gr3_im_1_2 0 s1 x3_im_a2 0 -33203684797016.023
Gr4_re_1_2 0 s1 x4_re_a2 0 4.107149007049588e+16
Gr4_im_1_2 0 s1 x4_im_a2 0 1.410362456252244e+16
Gr5_re_1_2 0 s1 x5_re_a2 0 5.247822252556355e+16
Gr5_im_1_2 0 s1 x5_im_a2 0 -1.241757206517809e+16
Gr6_re_1_2 0 s1 x6_re_a2 0 -2.674231417380455e+17
Gr6_im_1_2 0 s1 x6_im_a2 0 -1.890973431551071e+17
Gr7_re_1_2 0 s1 x7_re_a2 0 2.1524440306355306e+17
Gr7_im_1_2 0 s1 x7_im_a2 0 2.7298166761406026e+17
Gr8_1_2 0 s1 x8_a2 0 -1.5589278215773693e+17
Gr9_re_1_2 0 s1 x9_re_a2 0 8778790337368946.0
Gr9_im_1_2 0 s1 x9_im_a2 0 6.497947568282026e+16
Gr10_re_1_2 0 s1 x10_re_a2 0 1.4867984965663456e+17
Gr10_im_1_2 0 s1 x10_im_a2 0 2.120895716735107e+16
Gr11_re_1_2 0 s1 x11_re_a2 0 -3.01029962467205e+17
Gr11_im_1_2 0 s1 x11_im_a2 0 -5.680372098265735e+16
Gr12_re_1_2 0 s1 x12_re_a2 0 2.2942684029309846e+17
Gr12_im_1_2 0 s1 x12_im_a2 0 -5.582169749573288e+16
Gr13_re_1_2 0 s1 x13_re_a2 0 -4.931109129950187e+16
Gr13_im_1_2 0 s1 x13_im_a2 0 -7.298767744136282e+16
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341731991249194e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599375719573e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795343668.93695
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795343668.93695
Rp2_im_im_a1 0 x2_im_a1 5.770599375719573e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.772289797630837e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 55052325156.90757
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -55052325156.90757
Rp3_im_im_a1 0 x3_im_a1 7.772289797630837e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 9.268801308404507e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 39523776319.993904
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -39523776319.993904
Rp4_im_im_a1 0 x4_im_a1 9.268801308404507e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0032343217724231e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 40486361378.48375
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -40486361378.48375
Rp5_im_im_a1 0 x5_im_a1 1.0032343217724231e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 7.240050990707008e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 30879966336.111847
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -30879966336.111847
Rp6_im_im_a1 0 x6_im_a1 7.240050990707008e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 8.750558819007123e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 23451421898.04836
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -23451421898.04836
Rp7_im_im_a1 0 x7_im_a1 8.750558819007123e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.0310656065237525e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 5.346497377430703e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 18101021196.292873
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -18101021196.292873
Rp9_im_im_a1 0 x9_im_a1 5.346497377430703e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 3.3937167245994294e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 17106274336.899117
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -17106274336.899117
Rp10_im_im_a1 0 x10_im_a1 3.3937167245994294e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 2.2028939054594066e-09
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 14169004305.257599
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -14169004305.257599
Rp11_im_im_a1 0 x11_im_a1 2.2028939054594066e-09
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 4.316338513909827e-09
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 9271693652.851505
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -9271693652.851505
Rp12_im_im_a1 0 x12_im_a1 4.316338513909827e-09
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 4.395958063674703e-09
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 11067886736.265192
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -11067886736.265192
Rp13_im_im_a1 0 x13_im_a1 4.395958063674703e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.4301768997148087e-08
Fd2_1 0 s2 V1 1.2150884498574044e-06
Gr1_2_1 0 s2 x1_a1 0 80097752811.42668
Gr2_re_2_1 0 s2 x2_re_a1 0 -29546756008.299732
Gr2_im_2_1 0 s2 x2_im_a1 0 38835416875.326195
Gr3_re_2_1 0 s2 x3_re_a1 0 30980177909501.613
Gr3_im_2_1 0 s2 x3_im_a1 0 -33203694419190.312
Gr4_re_2_1 0 s2 x4_re_a1 0 4.107150184060328e+16
Gr4_im_2_1 0 s2 x4_im_a1 0 1.4103628059219198e+16
Gr5_re_2_1 0 s2 x5_re_a1 0 5.247823700886127e+16
Gr5_im_2_1 0 s2 x5_im_a1 0 -1.2417576070612842e+16
Gr6_re_2_1 0 s2 x6_re_a1 0 -2.6742321778322067e+17
Gr6_im_2_1 0 s2 x6_im_a1 0 -1.8909739439933805e+17
Gr7_re_2_1 0 s2 x7_re_a1 0 2.1524446332532323e+17
Gr7_im_2_1 0 s2 x7_im_a1 0 2.729817438432913e+17
Gr8_2_1 0 s2 x8_a1 0 -1.5589282645797978e+17
Gr9_re_2_1 0 s2 x9_re_a1 0 8778793954269260.0
Gr9_im_2_1 0 s2 x9_im_a1 0 6.4979493594337336e+16
Gr10_re_2_1 0 s2 x10_re_a1 0 1.48679892360954e+17
Gr10_im_2_1 0 s2 x10_im_a1 0 2.12089628197013e+16
Gr11_re_2_1 0 s2 x11_re_a1 0 -3.010300459040521e+17
Gr11_im_2_1 0 s2 x11_im_a1 0 -5.6803736991549864e+16
Gr12_re_2_1 0 s2 x12_re_a1 0 2.2942690323713904e+17
Gr12_im_2_1 0 s2 x12_im_a1 0 -5.582171313145878e+16
Gr13_re_2_1 0 s2 x13_re_a1 0 -4.931110545584134e+16
Gr13_im_2_1 0 s2 x13_im_a1 0 -7.298769789716198e+16
Gd2_2 0 s2 p2 0 0.020000075323081325
Fd2_2 0 s2 V2 1.0000037661540664
Gr1_2_2 0 s2 x1_a2 0 -374794144177.5032
Gr2_re_2_2 0 s2 x2_re_a2 0 -779736143832.8245
Gr2_im_2_2 0 s2 x2_im_a2 0 -798006845526.4354
Gr3_re_2_2 0 s2 x3_re_a2 0 -15869283780186.256
Gr3_im_2_2 0 s2 x3_im_a2 0 119703266739352.92
Gr4_re_2_2 0 s2 x4_re_a2 0 -1.2309576218595701e+17
Gr4_im_2_2 0 s2 x4_im_a2 0 6113117298888342.0
Gr5_re_2_2 0 s2 x5_re_a2 0 -1.0558412324508107e+17
Gr5_im_2_2 0 s2 x5_im_a2 0 8.206217594730718e+16
Gr6_re_2_2 0 s2 x6_re_a2 0 7.299315762299404e+17
Gr6_im_2_2 0 s2 x6_im_a2 0 2.6939535856383965e+17
Gr7_re_2_2 0 s2 x7_re_a2 0 -4.789924259331066e+17
Gr7_im_2_2 0 s2 x7_im_a2 0 -5.876735044924416e+17
Gr8_2_2 0 s2 x8_a2 0 4.0283026228044064e+17
Gr9_re_2_2 0 s2 x9_re_a2 0 -1.363972505160948e+17
Gr9_im_2_2 0 s2 x9_im_a2 0 -1.2152018255086131e+17
Gr10_re_2_2 0 s2 x10_re_a2 0 -4.3872467027041805e+17
Gr10_im_2_2 0 s2 x10_im_a2 0 -2.3854429274242188e+16
Gr11_re_2_2 0 s2 x11_re_a2 0 5.84487133463541e+17
Gr11_im_2_2 0 s2 x11_im_a2 0 1.3367204799387848e+17
Gr12_re_2_2 0 s2 x12_re_a2 0 -3.794491603481725e+17
Gr12_im_2_2 0 s2 x12_im_a2 0 1.2460372179881819e+17
Gr13_re_2_2 0 s2 x13_re_a2 0 1.464263165140933e+17
Gr13_im_2_2 0 s2 x13_im_a2 0 1.6327959343834253e+17
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341731991249194e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599375719573e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795343668.93695
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795343668.93695
Rp2_im_im_a2 0 x2_im_a2 5.770599375719573e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.772289797630837e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 55052325156.90757
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -55052325156.90757
Rp3_im_im_a2 0 x3_im_a2 7.772289797630837e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 9.268801308404507e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 39523776319.993904
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -39523776319.993904
Rp4_im_im_a2 0 x4_im_a2 9.268801308404507e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0032343217724231e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 40486361378.48375
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -40486361378.48375
Rp5_im_im_a2 0 x5_im_a2 1.0032343217724231e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 7.240050990707008e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 30879966336.111847
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -30879966336.111847
Rp6_im_im_a2 0 x6_im_a2 7.240050990707008e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 8.750558819007123e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 23451421898.04836
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -23451421898.04836
Rp7_im_im_a2 0 x7_im_a2 8.750558819007123e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.0310656065237525e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 5.346497377430703e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 18101021196.292873
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -18101021196.292873
Rp9_im_im_a2 0 x9_im_a2 5.346497377430703e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 3.3937167245994294e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 17106274336.899117
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -17106274336.899117
Rp10_im_im_a2 0 x10_im_a2 3.3937167245994294e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 2.2028939054594066e-09
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 14169004305.257599
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -14169004305.257599
Rp11_im_im_a2 0 x11_im_a2 2.2028939054594066e-09
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 4.316338513909827e-09
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 9271693652.851505
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -9271693652.851505
Rp12_im_im_a2 0 x12_im_a2 4.316338513909827e-09
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 4.395958063674703e-09
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 11067886736.265192
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -11067886736.265192
Rp13_im_im_a2 0 x13_im_a2 4.395958063674703e-09
.ENDS s_equivalent
