* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.006376417293534933
Fd1_1 0 s1 V1 -0.31882086467674664
Gr1_1_1 0 s1 x1_a1 0 620873033651.5857
Gr2_1_1 0 s1 x2_a1 0 -316247171930.08307
Gr3_1_1 0 s1 x3_a1 0 282292655714.03467
Gr4_1_1 0 s1 x4_a1 0 -189736859608.89127
Gr5_1_1 0 s1 x5_a1 0 151730049012.7139
Gr6_1_1 0 s1 x6_a1 0 -55890731230.80477
Gr7_1_1 0 s1 x7_a1 0 37619459654.984116
Gr8_1_1 0 s1 x8_a1 0 -6887194620.952899
Gr9_re_1_1 0 s1 x9_re_a1 0 796368147.969093
Gr9_im_1_1 0 s1 x9_im_a1 0 -334396539.47718745
Gr10_re_1_1 0 s1 x10_re_a1 0 199498486.4545809
Gr10_im_1_1 0 s1 x10_im_a1 0 -113882496.46026689
Gr11_re_1_1 0 s1 x11_re_a1 0 -249713520.1324842
Gr11_im_1_1 0 s1 x11_im_a1 0 103186040.87392049
Gd1_2 0 s1 p2 0 0.009268060138178115
Fd1_2 0 s1 V2 0.46340300690890573
Gr1_1_2 0 s1 x1_a2 0 -867531027116.6459
Gr2_1_2 0 s1 x2_a2 0 443278233293.34674
Gr3_1_2 0 s1 x3_a2 0 -388672962208.7401
Gr4_1_2 0 s1 x4_a2 0 233956981014.48096
Gr5_1_2 0 s1 x5_a2 0 -166467223752.65292
Gr6_1_2 0 s1 x6_a2 0 29831501994.14717
Gr7_1_2 0 s1 x7_a2 0 5285556352.700112
Gr8_1_2 0 s1 x8_a2 0 -4105555961.1884117
Gr9_re_1_2 0 s1 x9_re_a2 0 647270703.5188309
Gr9_im_1_2 0 s1 x9_im_a2 0 302683401.9407676
Gr10_re_1_2 0 s1 x10_re_a2 0 153221001.14460272
Gr10_im_1_2 0 s1 x10_im_a2 0 47921784.317928664
Gr11_re_1_2 0 s1 x11_re_a2 0 -208028227.7772901
Gr11_im_1_2 0 s1 x11_im_a2 0 -91378452.48568676
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0219172433972565e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 1.0611516151068834e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.5157664648811055e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 3.861099551910248e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 5.154766038237358e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.3527500049446893e-11
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.093735968490975e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 3.057844038284971e-11
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.1291528062296898e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 52369941299.87125
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -52369941299.87125
Rp9_im_im_a1 0 x9_im_a1 1.1291528062296898e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.028581795721588e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 34969282118.28879
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -34969282118.28879
Rp10_im_im_a1 0 x10_im_a1 1.028581795721588e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 2.00253240562426e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 52040317319.89433
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -52040317319.89433
Rp11_im_im_a1 0 x11_im_a1 2.00253240562426e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.009268060138178115
Fd2_1 0 s2 V1 0.46340300690890573
Gr1_2_1 0 s2 x1_a1 0 -867531027116.6459
Gr2_2_1 0 s2 x2_a1 0 443278233293.34674
Gr3_2_1 0 s2 x3_a1 0 -388672962208.7401
Gr4_2_1 0 s2 x4_a1 0 233956981014.48096
Gr5_2_1 0 s2 x5_a1 0 -166467223752.65292
Gr6_2_1 0 s2 x6_a1 0 29831501994.147163
Gr7_2_1 0 s2 x7_a1 0 5285556352.700129
Gr8_2_1 0 s2 x8_a1 0 -4105555961.1884174
Gr9_re_2_1 0 s2 x9_re_a1 0 647270703.5188307
Gr9_im_2_1 0 s2 x9_im_a1 0 302683401.94076765
Gr10_re_2_1 0 s2 x10_re_a1 0 153221001.14460266
Gr10_im_2_1 0 s2 x10_im_a1 0 47921784.31792879
Gr11_re_2_1 0 s2 x11_re_a1 0 -208028227.77729002
Gr11_im_2_1 0 s2 x11_im_a1 0 -91378452.48568673
Gd2_2 0 s2 p2 0 -0.0038582288350536686
Fd2_2 0 s2 V2 -0.19291144175268343
Gr1_2_2 0 s2 x1_a2 0 375900828671.69
Gr2_2_2 0 s2 x2_a2 0 -200201738412.2181
Gr3_2_2 0 s2 x3_a2 0 181686388116.45264
Gr4_2_2 0 s2 x4_a2 0 -125158591397.9035
Gr5_2_2 0 s2 x5_a2 0 98974175990.21826
Gr6_2_2 0 s2 x6_a2 0 -33468301529.052876
Gr7_2_2 0 s2 x7_a2 0 21956009362.774014
Gr8_2_2 0 s2 x8_a2 0 -4019635826.6706605
Gr9_re_2_2 0 s2 x9_re_a2 0 323288023.7150287
Gr9_im_2_2 0 s2 x9_im_a2 0 -309486053.1815457
Gr10_re_2_2 0 s2 x10_re_a2 0 77226413.0781511
Gr10_im_2_2 0 s2 x10_im_a2 0 -86288830.7727592
Gr11_re_2_2 0 s2 x11_re_a2 0 -100510038.75978571
Gr11_im_2_2 0 s2 x11_im_a2 0 91436682.03458759
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0219172433972565e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 1.0611516151068834e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.5157664648811055e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 3.861099551910248e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 5.154766038237358e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.3527500049446893e-11
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.093735968490975e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 3.057844038284971e-11
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.1291528062296898e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 52369941299.87125
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -52369941299.87125
Rp9_im_im_a2 0 x9_im_a2 1.1291528062296898e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.028581795721588e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 34969282118.28879
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -34969282118.28879
Rp10_im_im_a2 0 x10_im_a2 1.028581795721588e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 2.00253240562426e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 52040317319.89433
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -52040317319.89433
Rp11_im_im_a2 0 x11_im_a2 2.00253240562426e-10
.ENDS s_equivalent
